US06294668B1
(E)-(6R,7R)-7-[2-(2-Amino-thiazol-4-yl)-acetylamino]-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid
With 167.0 mg (1.03 mmol) 1,1′-carbonyldiimidazole, 163.0 mg (1.03 mmol) (2-aminothiazole-4-yl)-acetic acid and 300.0 mg (0.86 mmol) (E)-(6R,7R)-7-amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in 6 ml N,N-dimethylformamide. The resulting solid was purified by reversed phase chromatography (RP-18 LiChroPrep gel, water:acetonitrile=9:1). The organic solvent was stripped off at a rotary evaporator and the aqueous phase was freeze-dried.

reactant | 1,1′-carbonyldiimidazole | 1.03 mmol, 167.0 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2-aminothiazole-4-yl)-acetic acid | 1.03 mmol, 163.0 mg | NC=1SC=C(N1)CC(=O)O | C5H6N2O2S
reactant | (E)-(6R,7R)-7-amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.86 mmol, 300.0 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1CC1)=O | C16H19N3O4S
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | (E)-(6R,7R)-7-[2-(2-Amino-thiazol-4-yl)-acetylamino]-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)CC(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1CC1)=O | C21H23N5O5S2
